datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1cccc2ccc(C)[n+:21]([H:20])c12.C[n+]1c2ccccc2nc2ccc([O-:10])cc21>>COc1cccc2ccc(C)[n:21]c12.C[n+]1c2ccccc2nc2ccc([O:10][H:20])cc21 10=20;20,21=21",
"Cc1ccc(Cl)cc1/C(c1ccccc1)=[N:10]\CCC[NH+](C)C.O=C([C@@H]1O[C@H](Oc2ccc(I)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>Cc1ccc(Cl)cc1/C(c1ccccc1)=[N+:10](\CCC[NH+](C)C)[H:20].O=C([C@@H]1O[C@H](Oc2ccc(I)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"CC(C)(O[O-:10])c1ccccc1.CC1=CC(C)(C)SC(=S)[N:21]1[H:20]>>CC(C)(O[O:10][H:20])c1ccccc1.CC1=CC(C)(C)SC(=S)[N-:21]1 10=20;20,21=21",
"CN(C1=[N+:21]([H:20])CCO1)c1ccccc1.Cn1c(CO)[n:10]c2ccccc21>>CN(C1=[N:21]CCO1)c1ccccc1.Cn1c(CO)[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"O=[N+]([O-])c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CN2C(=N1)N1CCN=C1N1CC[N:10]=C21.CC(=O)c1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1>>C1CN2C(=N1)N1CCN=C1N1CC[N+:10]([H:20])=C21.CC(=O)c1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1 10=20;20,21=21",
"Clc1ccc(Cl)c([O-:10])c1Cl.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1ccc(Cl)c([O:10][H:20])c1Cl.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(S(=O)(=O)NCCC[N:10]2CCOCC2)c(OC)c1OC.NNC(=O)C(Cc1c[nH]c[n+:21]1[H:20])NC(=O)OCc1ccccc1>>COc1ccc(S(=O)(=O)NCCC[N+:10]2([H:20])CCOCC2)c(OC)c1OC.NNC(=O)C(Cc1c[nH]c[n:21]1)NC(=O)OCc1ccccc1 10=20;20,21=21",
"CC(=O)Nc1ccc([S:21][H:20])cc1.CN1Cc2c(nc[n-:10]2)N(C)C1=O>>CC(=O)Nc1ccc([S-:21])cc1.CN1Cc2c(nc[n:10]2[H:20])N(C)C1=O 10=20;20,21=21",
"CC(C)(C)[N+:21](C)(c1ccccc1)[H:20].S=C(c1ccc(Cl)cc1)[N-:10]c1ccc(Cl)c(Cl)c1>>CC(C)(C)[N:21](C)c1ccccc1.S=C(c1ccc(Cl)cc1)[N:10](c1ccc(Cl)c(Cl)c1)[H:20] 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1 10=20;20,21=21",
"CN(C)c1cccc2c(S(=O)(=O)[N-:10]CC(=O)[O-])cccc12.COc1cccc2ccc[n+:21]([H:20])c12>>CN(C)c1cccc2c(S(=O)(=O)[N:10](CC(=O)[O-])[H:20])cccc12.COc1cccc2ccc[n:21]c12 10=20;20,21=21",
"C=CC[N+:21](CC=C)(CCOC(=O)C(=C)C)[H:20].CCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCC>>C=CC[N:21](CC=C)CCOC(=O)C(=C)C.CCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCC)[H:20] 10=20;20,21=21",
"CC(C)[N+:21]1([H:20])CCCCC1.C[N+](C)(C)CCCc1ccccc1[O-:10]>>CC(C)[N:21]1CCCCC1.C[N+](C)(C)CCCc1ccccc1[O:10][H:20] 10=20;20,21=21",
"O=[PH](C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O:21][H:20].c1ccc2c([NH2:10])cccc2c1>>O=[PH](C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O-:21].c1ccc2c([NH2+:10][H:20])cccc2c1 10=20;20,21=21",
"C[C@H]1CC[N+:21]2([H:20])CCC[C@@H]12.c1cc(C2CCCN2)nc(C2CCC[NH:10]2)c1>>C[C@H]1CC[N:21]2CCC[C@@H]12.c1cc(C2CCCN2)nc(C2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CC[O-:10].C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CC[O:10][H:20].C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCCCC1.CC1(C)SC2C(C(=O)[O-])[N:10]=C(CCC[C@H](N)C(=O)[O-])N2[C@@H]1C(=O)[O-]>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCCCC1.CC1(C)SC2C(C(=O)[O-])[N+:10]([H:20])=C(CCC[C@H](N)C(=O)[O-])N2[C@@H]1C(=O)[O-] 10=20;20,21=21",
"COc1cccc(C=O)c1[O-:10].c1ccc2c(c1)Cc1cc([O:21][H:20])ccc1-2>>COc1cccc(C=O)c1[O:10][H:20].c1ccc2c(c1)Cc1cc([O-:21])ccc1-2 10=20;20,21=21",
"C[N+:21](C)(c1cccc(Cl)c1)[H:20].O=C(/C=C\c1cccc([N+](=O)[O-])c1)[O-:10]>>C[N:21](C)c1cccc(Cl)c1.O=C(/C=C\c1cccc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"CCCP(CCC)(CCC)=[O:10].O=C(CCCBr)OCCCC(=O)[O:21][H:20]>>CCCP(CCC)(CCC)=[O+:10][H:20].O=C(CCCBr)OCCCC(=O)[O-:21] 10=20;20,21=21",
"CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O:21][H:20].[NH3+]C(CC(=O)[O-:10])c1cccc[nH+]1>>CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O-:21].[NH3+]C(CC(=O)[O:10][H:20])c1cccc[nH+]1 10=20;20,21=21",
"O=CC(=O)[O-:10].O=S(=O)([O-])CC(O)C[N+:21]1([H:20])CCOCC1>>O=CC(=O)[O:10][H:20].O=S(=O)([O-])CC(O)C[N:21]1CCOCC1 10=20;20,21=21",
"Cc1cccc[n:10]1.O=C(Cc1ccc(-c2ccccc2)cc1)[O:21][H:20]>>Cc1cccc[n+:10]1[H:20].O=C(Cc1ccc(-c2ccccc2)cc1)[O-:21] 10=20;20,21=21",
"C1C[NH:10]CCN1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1C[NH+:10]([H:20])CCN1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1cc(C(=O)[O-:10])ccc1Br.N#CCC(=O)N[NH2+:21][H:20]>>Cc1cc(C(=O)[O:10][H:20])ccc1Br.N#CCC(=O)N[NH2:21] 10=20;20,21=21",
"CC1(C)SC[NH+:21]([H:20])C1C(=O)[O-].COc1ccc([N-:10]C=S)cc1>>CC1(C)SC[NH:21]C1C(=O)[O-].COc1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"Brc1cccc(-c2nnn[n-:10]2)c1.O=C1/C(=N/[O:21][H:20])C=Cc2ccccc21>>Brc1cccc(-c2nnn[n:10]2[H:20])c1.O=C1/C(=N/[O-:21])C=Cc2ccccc21 10=20;20,21=21",
"C1CC2([NH2+:21][H:20])CC1C2.[O-]c1c(O)cnc[n:10]1>>C1CC2([NH2:21])CC1C2.[O-]c1c(O)cnc[n+:10]1[H:20] 10=20;20,21=21",
"CCC[NH:10]CCC.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC[NH+:10](CCC)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=CCC1(CC=C)SC(=O)[N-:10]C1=O.C[n+]1c2ccccc2cc2cc([NH:21][H:20])ccc21>>C=CCC1(CC=C)SC(=O)[N:10]([H:20])C1=O.C[n+]1c2ccccc2cc2cc([NH-:21])ccc21 10=20;20,21=21",
